US04877441
To a solution of 7.2 g of α,α-dimethyl-2-hydroxymethyl-3-acetaminobenzyl alcohol in 300 ml of chloroform was added 28 g of activated manganese dioxide and the mixture was allowed to react for 6 hours under refluxing. After the reaction was over, the reaction mixture was left to stand for cooling and filtered on a glass filter having a bed of celite. The residue was washed with 100 ml of chloroform. The filtrate and the washed solution were combined and concentrated to obtain an oily substance. The oily substance was purified by silica gel column chromatography to obtain 4.4 g of 3,3-dimethyl-7-acetaminophthalide in the white crystal form. m.p. 124.1° C.

reactant | α,α-dimethyl-2-hydroxymethyl-3-acetaminobenzyl alcohol | 7.2 g | CC(C1=C(C(=CC=C1)NC(=O)C)CO)(C)O | C12H17NO3
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 28 g | [O-2].[O-2].[Mn+4]
product | 3,3-dimethyl-7-acetaminophthalide | 4.4 g | CC1(OC(=O)C2=C(C=CC=C12)NC(=O)C)C | C12H13NO3
